US09290496B2
Step 5: Preparation of tert-butyl ((3R,4R)-4-fluoropyrrolidin-3-yl)carbamate
To a solution of (3R,4R)-benzyl 3-((tert-butoxycarbonyl)amino)-4-fluoropyrrolidine-1-carboxylate (3.0 g, 8.8 mmol) in MeOH (50 mL) was added wet Pd/C (0.3 g, 10%) under nitrogen. The suspension was degassed under vacuum and purged with hydrogen three times. The resulting mixture was stirred at rt under hydrogen balloon for 3 hr. The reaction mixture was filtered and the filtrate was concentrated to afford the title compound (1.6 g, 88% yield) as light yellow oil that solidified on standing.

reactant | (3R,4R)-benzyl 3-((tert-butoxycarbonyl)amino)-4-fluoropyrrolidine-1-carboxylate | 8.8 mmol, 3.0 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C17H23FN2O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | tert-butyl ((3R,4R)-4-fluoropyrrolidin-3-yl)carbamate | 1.6 g, 88% yield | F[C@H]1[C@@H](CNC1)NC(OC(C)(C)C)=O | C9H17FN2O2
